US06211177B1
(A) 4-Methoxy-2-nitrophenyl-N-phenylacetamide
4-Methoxy-2-nitroaniline (47.6 mmole, 8.0 g) is added to a solution of pyridine (71.4 mmole, 5.8 ml) in dichloromethane (130 ml). Phenylacetyl chloride (40.6 mmole, 6.3 ml) in dichloromethane (40 ml) is slowly added, and the mixture is stirred at room temperature for two days. The mixture is washed with 10% HCl (3×), the organic layer is dried with Na2SO4, is filtered and evaporated. Recrystallisation from ethyl acetate gives the title product.

reactant | 4-Methoxy-2-nitroaniline | 47.6 mmole, 8.0 g | COC1=CC(=C(N)C=C1)[N+](=O)[O-] | C7H8N2O3
reactant | pyridine | 71.4 mmole, 5.8 ml | N1=CC=CC=C1 | C5H5N
reactant | Phenylacetyl chloride | 40.6 mmole, 6.3 ml | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | dichloromethane | 130 ml | ClCCl | CH2Cl2
reactant | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 4-Methoxy-2-nitrophenyl-N-phenylacetamide | COC1=CC(=C(C=C1)CC(=O)NC1=CC=CC=C1)[N+](=O)[O-] | C15H14N2O4
